US09227951B2
To an oven-dried 100-mL round-bottom flask was added (S,E)-tert-butyl 5-((tert-butylsulfinylimino)methyl)thiophene-2-carboxylate (1.00 g, 3.2 mmol) and DCM (15.8 mL). The solution was cooled to −45° C. under nitrogen, then methylmagnesium bromide (2.11 mL, 6.36 mmol, 3.0 M in ether) was slowly added via syringe. The resulting reaction mixture was stirred at −45° C. for 4 h, then gradually warmed to rt and stirred for 2 h. To the reaction was added DCM (50 mL) and sat. NH4Cl solution (10 mL). After separation, the aqueous layer was extracted with DCM (2×30 mL). The combined organic layers were washed with brine, dried (MgSO4), and concentrated. Purification via flash chromatography (20% EtOAc-hexanes to 50% EtOAc-hexanes) afforded major diastereomer tert-butyl-5-[(1R)-1-{[(S)-tert-butylsulfinyl]amino}ethyl]thiophene-2-carboxylate (0.51 g, 48%) as a white solid; 1H NMR (Methanol-d4, 400 MHz) δ 7.55 (d, J=3.8 Hz, 1H), 7.00 (d, J=3.8 Hz, 1H), 4.73 (q, J=6.5 Hz, 1H), 3.30 (br, 1H), 1.65 (d, J=6.8 Hz, 3H), 1.55 (s, 9H), 1.25 (s, 9H). Minor diastereomer tert-butyl-5-[(1S)-1-{[(S)-tert-butylsulfinyl]amino}ethyl]thiophene-2-carboxylate (0.061 g, 6%) was isolated as a white solid. 1H NMR (Methanol-d4, 400 MHz) δ 7.55 (d, J=3.5 Hz, 1H), 7.00 (d, J=3.5 Hz, 1H), 4.73 (q, J=6.8 Hz, 1H), 3.30 (br, 1H), 1.61 (d, J=6.8 Hz, 3H), 1.55 (s, 9H), 1.23 (s, 9H).

reactant | (S,E)-tert-butyl 5-((tert-butylsulfinylimino)methyl)thiophene-2-carboxylate | 3.2 mmol, 1.00 g | C(C)(C)(C)[S@](=O)\N=C\C1=CC=C(S1)C(=O)OC(C)(C)C | C14H21NO3S2
reactant | methylmagnesium bromide | 6.36 mmol, 3.0 M, 2.11 mL | C[Mg]Br
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 15.8 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl-5-[(1R)-1-{[(S)-tert-butylsulfinyl]amino}ethyl]thiophene-2-carboxylate | 0.51 g, 48% | C(C)(C)(C)OC(=O)C=1SC(=CC1)[C@@H](C)N[S@@](=O)C(C)(C)C | C15H25NO3S2
